US07632837B2
56A. Preparation of 5-bromo-2-chloro-4-(4-chlorophenyl)pyridine
To a degassed solution of 5-bromo-2-chloro-4-iodopyridine (Ref. Cottet, F. and Schlosser, M. Tetrahedron 60, 11896-11874 (2004)) (2.0 g, 6.3 mmol), 4-chlorophenylboronic acid (1.1 g, 6.9 mmol) and K2CO3 (1.7 g, 12.6 mmol) in 1,2-dimethoxyethane (24 mL) and H20 (8.0 mL) was added Pd(PPh3)4 (0.727 g, 0.63 mmol) under argon at 20° C. The reaction mixture was refluxed for 15 h under argon, then allowed to cool to 20° C. The reaction was quenched by addition of H2O (30 mL) and extracted with EtOAc (50 mL×3). The combined organic was washed with saturated aqueous NaHCO3 (50 mL) and saturated aqueous NaCl (50 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue was crystallized in EtOH to afford 1.35 g of the title compound as a light beige solid as the first crop. The second crop of the title product (0.44 g) was also isolated by concentrating the mother liquid followed by recrystallization in EtOH. LC/MS (method B): retention time=2.03 min, [M+H]+=301.9.

reactant | 5-bromo-2-chloro-4-iodopyridine | 6.3 mmol, 2.0 g | BrC=1C(=CC(=NC1)Cl)I | C5H2BrClIN
reactant | 4-chlorophenylboronic acid | 6.9 mmol, 1.1 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 12.6 mmol, 1.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2-dimethoxyethane | 24 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.63 mmol, 0.727 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-bromo-2-chloro-4-(4-chlorophenyl)pyridine | 1.35 g | BrC=1C(=CC(=NC1)Cl)C1=CC=C(C=C1)Cl | C11H6BrCl2N
